US04098709
Part A: Preparation of Methyl 3,5-di-tert.butyl-4-hydroxylbenzoate
In a 500 cc 1-necked, round bottom flask, fitted with a condenser and stirring bar, were placed under nitrogen: 37.55 g. (0.15 mole) 3,5-di-tert.-butyl-4-hydroxybenzoic acid, 7.5 g. Amberlyst 15 catalyst, and 300 cc (7.43 moles) methanol. The solution was refluxed 15 hours, after which time the hot solution was filtered, concentrated, and cooled to afford 31.9 g. (81%) white crystals which were washed with hexane and dried. The melting point was 165.0° -166.5° C. The infrared and NMR spectra of the product were consistent with those expected from methyl 3,5-di-tert. butyl-4-hydroxybenzoate.

reactant | 3,5-di-tert.-butyl-4-hydroxybenzoic acid | 0.15 mole | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | methanol | 7.43 moles, 300 cc | CO | CH4O
product | Methyl 3,5-di-tert.butyl-4-hydroxylbenzoate | C(C)(C)(C)C=1C=C(C(=O)OC)C=C(C1O)C(C)(C)C | C16H24O3
